US04812462
A solution of 11.8 mL trifluoromethanesulfonic anhydride in 70 mL dichloromethane is chilled to -70° C. and treated dropwise with a solution composed of 12.6 g 1-adamantyl-2-hydroxyethane, 12.2 mL diisopropylethylamine and 70 mL dichloromethane. The solution is allowed to warm to -55° C. over 45 min then a solution of 25 g N,1-bis-BOC-histidine methyl ester (J. Chem. Soc., Perkin Trans. I 1982; 1553-61.) in 70 mL dichloromethane is added dropwise. The reaction is then stirred at 25° C. for 24 hr and poured into pH=7, 0.25M potassium phosphate buffer (500 mL), stirring vigorously. The organic layer is separated, washed with the same buffer, dried and concentrated. 3-(2-(1-Adamantyl)ethyl)-N-BOC-histidine methyl ester is isolated by chromatography on silica gel (chloroform-methanol, 99:1) as a gum. NMR (CDCl3) 3.85 (m,2H,NCH2).

reactant | trifluoromethanesulfonic anhydride | 11.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-adamantyl-2-hydroxyethane | 12.6 g | C12(CC3CC(CC(C1)C3)C2)CCO | C12H20O
reactant | diisopropylethylamine | 12.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,1-bis-BOC-histidine methyl ester | 25 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN(C=N1)C(=O)OC(C)(C)C)=O | C17H27N3O6
reactant | potassium phosphate | 0.25M, 500 mL, pH=7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 3-(2-(1-Adamantyl)ethyl)-N-BOC-histidine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN=CN1CCC12CC3CC(CC(C1)C3)C2)=O | C24H37N3O4
